Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
oxycodone
 
Attending: ___.
 
Chief Complaint:
Bartholin's Abscess
 
Major Surgical or Invasive Procedure:
Marupializatino of left Bartholin's gland abscess 
 
History of Present Illness:
___ year-old female here presenting to the ED due to continued 
vulvar pain and swelling. She reports that ___ she noted left 
sided vulvar swelling. She called her PCP who ___ TID 
which she started ___. Throughout the day she noted increased 
pain and swelling, subjective fevers started ___ with Tmax at 
home of ___ F. PO. Took Tylenol this am around 0300. Last ate 10 
pm. 

Reports this is the ___ occurrence of similar symptoms ___ years 
ago had Bartholins cyst, s/p I&D and Word cath ___ years ago had 
another I&D. Last in ___ treated conservatively with Abx. 

ROS:
Constitutional: + subjective fever. No nausea, vomiting, overly 
fatigued
Endocrine: No unexplained weight changes, hair loss or heat/cold 
intolerance
Psych: No feelings of depression, anxiety or inability to focus 
or concentrate
Pulm: No cough, sputum, night sweats, wheezing
CV: No chest pain, palpitations, difficulty breathing while 
walking
GI: No diarrhea, constipation, black stools, red blood per 
rectum, or dyspepsia
GU: No dysuria, leaking, frequency, or bloody urine
GYN: No discharge, excessive bleeding or abnormal bleeding

 
Past Medical History:
PGYNHx:
 Recurrent Bartholin's cysts/abscesses. ___, 
current
 Menses: regular 
 Fibroids/ STIs: denies
 Sexually active: yes, with one partner- husband.
 Contraception: Implant x ___ year
 ___ abnormal Paps: denies

POBHx: SVD x 1, ___ years ago. denies complications

PMH: denies

PSH: denies

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
PHYSICAL EXAM on ADMISSION
Pain ___   99.1   98   134/80   18   100%ra
            97.9   58   125/79   18   98%ra

  GEN:      WN/WD, NAD
  HEENT:    grossly normal
  LUNGS:    Clear bilaterally
  CARDIAC:  RRR. No murmurs
  ABD:      Soft, NT, ND, No HSM, No masses
  EXT:      No CT, No edema
  
PHYSICAL EXAM on DISCHARGE 
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, nt, nd
Pelvic: Left sided vaginal incision c/d/I. Minimal spotting on 
pad. Mild erythema, improved since day prior. 
Ext: no TTP

 
Pertinent Results:
___ 05:48AM BLOOD WBC-9.8 RBC-3.61* Hgb-10.9* Hct-33.6* 
MCV-93 MCH-30.2 MCHC-32.4 RDW-13.0 RDWSD-44.8 Plt ___
___ 07:00PM BLOOD WBC-12.0* RBC-3.64* Hgb-11.1* Hct-33.3* 
MCV-92 MCH-30.5 MCHC-33.3 RDW-13.2 RDWSD-45.1 Plt ___
___ 05:49AM BLOOD WBC-15.3* RBC-4.40 Hgb-13.4 Hct-40.6 
MCV-92 MCH-30.5 MCHC-33.0 RDW-13.3 RDWSD-44.8 Plt ___
___ 05:48AM BLOOD Neuts-80.1* Lymphs-12.0* Monos-6.7 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-7.85* AbsLymp-1.18* 
AbsMono-0.66 AbsEos-0.02* AbsBaso-0.04
___ 07:00PM BLOOD Neuts-79.8* Lymphs-12.1* Monos-6.7 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-9.59* AbsLymp-1.45 
AbsMono-0.81* AbsEos-0.04 AbsBaso-0.05
___ 05:49AM BLOOD Neuts-83.2* Lymphs-9.5* Monos-6.1 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-12.77* AbsLymp-1.45 
AbsMono-0.94* AbsEos-0.04 AbsBaso-0.06
___ 05:48AM BLOOD ___ PTT-37.0* ___
___ 07:00PM BLOOD ___ PTT-36.9* ___
___ 07:00PM BLOOD ___
___ 05:48AM BLOOD Glucose-86 UreaN-7 Creat-0.5 Na-140 K-4.4 
Cl-107 HCO3-24 AnGap-13
___ 05:49AM BLOOD Glucose-107* UreaN-10 Creat-0.8 Na-134 
K-8.3* Cl-104 HCO3-21* AnGap-17
___ 05:48AM BLOOD Calcium-9.1 Phos-4.6* Mg-2.2
___ 06:00AM BLOOD K-7.2*
.

___ 05:35AM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:35AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM 
___ 05:35AM URINE RBC-4* WBC-3 Bacteri-FEW Yeast-NONE Epi-4

___ 05:35AM URINE Mucous-OCC
___ 05:35AM URINE UCG-NEGATIVE
.
 GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
 VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Pending):
   Blood Culture, Routine (Pending): x2
.
Pathology Pending 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service after 
being seen in the Emergency Department for a Bartholin's 
abscess. She was taken to the operating room on hospital day 1 
for a Batholin's marsupialization and biopsy of cyst base for a 
recurrent Bartholin's abscess with overlying cellulitis and 
failed conservative management. 
.
Initially on presenting to hospital, patient was febrile with a 
Tmax of 101.6. She was initiated on IV clindamycin and IV 
vancomycin for 24 hours afebrile. After, she was transitioned to 
a 14 day course of oral augmentin and remained afebrile during 
hospital stay.
.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with oral ibuprofen and 
acetaminophen around the clock with oral or IV dilaudid for 
breakthrough pain. Her vaginal packing and surgical were removed 
on post-operative day 1. Her diet was advanced without 
difficulty and she was able to tolerate a regular diet. She was 
able to void spontaneously the entire hospital stay.
. 
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
on oral antibiotics in stable condition with outpatient 
follow-up scheduled.

 
Medications on Admission:
Bactrim
Tylenol
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H 
Maximum 4000 mg in 24 hours.  
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0
2. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
Do not drive while taking. 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0
3. Ibuprofen 600 mg PO Q6H 
Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*0
5. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*28 Tablet Refills:*0

1. Acetaminophen ___ mg PO Q6H 
Maximum 4000 mg in 24 hours.  
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0
2. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
Do not drive while taking. 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0
3. Ibuprofen 600 mg PO Q6H 
Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*0
5. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left Bartholin's gland abscess
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service with a left 
Bartholin's gland abscess. You underwent surgical 
marsupialization. You have recovered well and the team believes 
you are ready to be discharged home on oral antibiotics. Please 
call Dr. ___ office with any questions or concerns. Please 
follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina for 4 weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower.
* Please use ___ bath (or take a bath) three times daily for 
soaking.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

You are being discharged with antibiotics. Please take as 
prescribed.
 
Followup Instructions:
___